US06391948B1
A mixture of thiourea (105.7 g, 1.39 moles), 2-(perfluorooctyl)ethyl iodide (531.5 g), 0.926 moles) and anhydrous ethanol (1000 mL) was heated at reflux for 6 hours. Approximately half of the alcohol was removed at reduced pressure and replaced with water. Solid sodium hydroxide (37.0 g) was added and the mixture heated under slow nitrogen purge. The volatile liquid products were collected by steam distillation using a modified Dean-Stark apparatus to yield 414 g (93.1 molar yield) of 2-(perfluorooctyl)ethyl mercaptan. After two consecutive water washes the product was suficiently pure by glc (99.3%) and used without further purification.

reactant | thiourea | 1.39 moles, 105.7 g | NC(=S)N | CH4N2S
reactant | 2-(perfluorooctyl)ethyl iodide | 531.5 g | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(CCI)F | C10H4F17I
solvent | ethanol | 1000 mL | C(C)O | C2H6O
product | 2-(perfluorooctyl)ethyl mercaptan | 93.1 molar, 414 g | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(CCS)F | C10H5F17S
